US08455477B2
2-(5-methyl-1H-pyrazol-1-yl)pyridine (100 mg, 0.63 mmol) and N-iodosuccinimide (212 mg, 0.942 mmol) were added to acetonitrile (5 ml). The reaction mixture was heated to 60° C. After 1 hour, the reaction mixture was diluted with ethyl acetate, washed with 1N aqueous sodium hydroxide and brine, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to afford 2-(4-iodo-5-methyl-1H-pyrazol-1-yl)pyridine. LRMS (ESI) calculated for C9H9IN3 [M+H]+, 286.0; found 286.0.

reactant | 2-(5-methyl-1H-pyrazol-1-yl)pyridine | 0.63 mmol, 100 mg | CC1=CC=NN1C1=NC=CC=C1 | C9H9N3
reactant | N-iodosuccinimide | 0.942 mmol, 212 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-iodo-5-methyl-1H-pyrazol-1-yl)pyridine | IC=1C=NN(C1C)C1=NC=CC=C1 | C9H8IN3
